US05993707
3. Preparation of (1H-cyclopenta[1]phenanthrene-2-yl)dimethyl(t-butylamino)silane
To a 500 ml round bottom flask containing 1.98 g (0.0064 mole) of (1H-cyclopenta[1]phenanthrene-2-yl)dimethylchlorosilane and 250 ml of hexane was added 2.00 ml (0.0160 mole) of t-butylamine. The reaction mixture was allowed to stir for several days, then filtered using diatomaceous earth filter aid (Celite™), washed twice with hexane. The product was isolated by removing residual solvent under reduced pressure. The isolated yield was 1.98 g (88.9 percent).

reactant | (1H-cyclopenta[1]phenanthrene-2-yl)dimethylchlorosilane | 0.0064 mole, 1.98 g | C1C(=CC2=C1C1=CC=CC=C1C=1C=CC=CC21)[Si](Cl)(C)C | C19H17ClSi
reactant | t-butylamine | 0.0160 mole, 2.00 ml | C(C)(C)(C)N | C4H11N
solvent | hexane | 250 ml | CCCCCC | C6H14
product | (1H-cyclopenta[1]phenanthrene-2-yl)dimethyl(t-butylamino)silane | C1C(=CC2=C1C1=CC=CC=C1C=1C=CC=CC21)[Si](NC(C)(C)C)(C)C | C23H27NSi
